US08623889B2
Step 1: N-(7-bromoisoquinolin-3-yl)cyclopropanecarboxamide
To a cold solution (below 0° C.) of 7-bromoisoquinolin-3-amine (20 g, 0.09 mol) in pyridine (150 mL) was added cyclopropanecarbonyl chloride (11.2 g, 0.108 mol) dropwise. The mixture was stirred at room temperature overnight. After water (500 mL) was added, the reaction mixture was stirred for 30 min. Solid was collected by filtration and washed with water to give the desired product (21 g, 80.4%). LCMS (ESI): RT (min)=1.009, M+H+=290.7, method=A. 1H NMR (400 MHz, DMSO-d6) δ 10.96 (s, 1H), 9.10 (s, 1H), 8.44 (s, 1H), 8.30 (s, 1H), 7.22 (d, J=8.8 Hz, 1H), 7.67 (d, J=8.8 Hz, 1H), 2.02-2.10 (m, 1H), 0.84-0.79 (m, 4H).

reactant | 7-bromoisoquinolin-3-amine | 0.09 mol, 20 g | BrC1=CC=C2C=C(N=CC2=C1)N | C9H7BrN2
reactant | cyclopropanecarbonyl chloride | 0.108 mol, 11.2 g | C1(CC1)C(=O)Cl | C4H5ClO
reactant | water | 500 mL | O | H2O
solvent | pyridine | 150 mL | N1=CC=CC=C1 | C5H5N
product | N-(7-bromoisoquinolin-3-yl)cyclopropanecarboxamide | 21 g, 80.4% | BrC1=CC=C2C=C(N=CC2=C1)NC(=O)C1CC1 | C13H11BrN2O
